US07589205B2
G2. 1-Bromo-1-(3,4-dimethoxyphenyl)ethene
According to the General Procedure D, HBr (33% in acetic acid, 1.11 ml, 0.50 g, 6.17 mmol) and 3,4-dimethoxyphenylacetylene (1.00 g, 6.17 mmol) are converted to give after workup and chromatography (SiO2, PE/EE 5:1, Rf=0.41) the title compound (1.30 g, 5.35 mmol, 87%) as a brown oil; C10H11BrO2 (243.10).

reactant | HBr | 6.17 mmol, 1.11 ml, 0.50 g | Br | BrH
reactant | 3,4-dimethoxyphenylacetylene | 6.17 mmol, 1.00 g | COC=1C=C(C=CC1OC)C#C | C10H10O2
product | 1-Bromo-1-(3,4-dimethoxyphenyl)ethene | 5.35 mmol, 1.30 g, 87% | BrC(=C)C1=CC(=C(C=C1)OC)OC | C10H11BrO2
